US04319913
The procedure of Example 30 was employed utilizing N-methyl-N-benzylamine and isopropyl phosphonic dichloride. The reaction of the dilithio compound and the isopropyl phosphonic dichloride was conducted at -72° C. The crude product produced as a result of the chromatographic separation was slurried in methylcyclohexane to yield a pale solid. The solid was recrystallized from diethyl ether and petroleum ether to yield 1-isopropyl-2-methyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide as a crystalline precipitate. A second crop was obtained to give a total yield of 2.35 g (19% yield) of 1-isopropyl-2-methyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide having a melting point of 72°-74° C. and the following analysis:

reactant | N-methyl-N-benzylamine | CNCC1=CC=CC=C1 | C8H11N
reactant | isopropyl phosphonic dichloride | C(C)(C)P(=O)(Cl)Cl | C3H7Cl2OP
solvent | methylcyclohexane | CC1CCCCC1 | C7H14
product | 1-isopropyl-2-methyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | C(C)(C)P1(N(CC2=C1C=CC=C2)C)=O | C11H16NOP
